US04065464
A solution of 8.3 g. (0.05 mole) of 3-(chloromethyl) indole in 30 ml. of ether is mixed with a solution of 8.1 g. (0.05 mole) of trichloroacetamidine, also in ether. The mixture is heated at reflux for 3 hours, and concentrated in vacuo to an oil. This is taken up in warm chloroform, filtered, and the chloroform extracts washed first with water and then with dilute hydrochloric acid. The aqueous layers are combined, made basic with a saturated aqueous solution of sodium bicarbonate and the product extracted with chloroform. The combined chloroform extracts are washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo affording N-(3-indolylmethyl) trichloroacetamidine m.p. 135.5 to 138.5 after recrystallization from benzene/hexane.

reactant | 3-(chloromethyl) indole | 0.05 mole | ClCC1=CNC2=CC=CC=C12 | C9H8ClN
reactant | trichloroacetamidine | 0.05 mole | ClC(C(=N)N)(Cl)Cl | C2H3Cl3N2
solvent | ether | CCOCC | C4H10O
product | N-(3-indolylmethyl) trichloroacetamidine | N1C=C(C2=CC=CC=C12)CNC(C(Cl)(Cl)Cl)=N | C11H10Cl3N3
